US07642264B2
2-(4-Bromo-imidazol-1-yl)-4-(3-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(3-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine (example A.6) (0.50 g, 1.45 mmol) and commercially available 4-bromo-imidazole (0.32 g, 2.18 mmol) according to the general procedure IVa. Obtained as a white solid (0.34 g, 51%). MS (EI) 455.1 [(M)+]; mp 164.5° C.

reactant | 2-chloro-4-(3-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | 1.45 mmol, 0.50 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)F)C(F)(F)F | C12H4ClF7N2
reactant | 4-bromo-imidazole | 2.18 mmol, 0.32 g | BrC=1N=CNC1 | C3H3BrN2
product | 2-(4-Bromo-imidazol-1-yl)-4-(3-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | BrC=1N=CN(C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)F)C(F)(F)F | C15H6BrF7N4
